US06423713B1
4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, dihydrate;
4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, monosodium salt dihydrate;

reactant | 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid | ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C(CCC(=O)O)=O)C1=CC=NC=C1 | C22H22ClN5O3
reactant | monosodium | [Na] | Na
product | 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, dihydrate | O.O.ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C(CCC(=O)O)=O)C1=CC=NC=C1 | InChI=1S/C22H22ClN5O3.2H2O/c23-17-3-1-16(2-4-17)21-20(15-7-9-24-10-8-15)22(26-25-21)28-13-11-27(12-14-28)18(29)5-6-19(30)31;;/h1-4,7-10H,5-6,11-14H2,(H,25,26)(H,30,31);2*1H2
